US08357711B2
4-[(1,2,4-Thiadiazol-5-ylamino)sulfonyl]-N-[1-[4-(trifluoromethyl)phenyl]ethyl]benzamide
The title compound was prepared from 4-[(1,2,4-thiadiazol-5-ylamino)sulfonyl]benzoic acid (Preparation 29) and 1-[4-(trifluoromethyl)phenyl]ethanamine following the procedure described in Example 309. The reaction mixture was extracted from saturated sodium hydrogen carbonate into DCM and the crude product purified by preparative HPLC.

reactant | 4-[(1,2,4-thiadiazol-5-ylamino)sulfonyl]benzoic acid | S1N=CN=C1NS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C9H7N3O4S2
reactant | 1-[4-(trifluoromethyl)phenyl]ethanamine | FC(C1=CC=C(C=C1)C(C)N)(F)F | C9H10F3N
product | 4-[(1,2,4-Thiadiazol-5-ylamino)sulfonyl]-N-[1-[4-(trifluoromethyl)phenyl]ethyl]benzamide | S1N=CN=C1NS(=O)(=O)C1=CC=C(C(=O)NC(C)C2=CC=C(C=C2)C(F)(F)F)C=C1 | C18H15F3N4O3S2
